US06399631B1
9-Ethyl-9H-carbazole-3-carboxylic acid benzylamide
To a suspension of 9-Ethyl-9H-carbazole-3-carboxylic acid (75 mg, 0.313 mmol) in CH2Cl2 (1 ml) at room temperature was added CDI (56 mg, 0.344 mmol) ) in CH2Cl2 (1 ml), and after stirring for 30 minutes benzylamine (38 μl, 0. 344 mmol) was added. When the reaction was complete the reaction mixture was directly loaded onto a silica column and eluted with CH2Cl2 to afforded the desired product as a white foam (86 mg, 84% yield). MS m/z @ 329 (m+1).

reactant | 9-Ethyl-9H-carbazole-3-carboxylic acid | 0.313 mmol, 75 mg | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C(=O)O | C15H13NO2
reactant | CDI | 0.344 mmol, 56 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | benzylamine | 344 mmol, 38 μl | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 9-Ethyl-9H-carbazole-3-carboxylic acid benzylamide | 86 mg, 84% yield | C(C1=CC=CC=C1)NC(=O)C=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C22H20N2O
